US04443243
(c) N-(5-Methyl-2-propargyloxyphenylsulfonyl)-N'-(4-chloro-6-methoxypyrimidin-2-yl)-urea
A solution of 9.4 g of crude 5-methyl-2-propargyloxyphenylsulfonylisocyanate in 50 ml of absolute tetrahydrofuran is added dropwise at room temperature, within 10 minutes, to a solution of 3.7 g of 2-amino-4-chloro-6-methoxy-pyrimidine and 0.1 g of 1,4-diazadicyclo[2.2.2]octane in 60 ml of absolute tetrahydrofuran, in the course of which the temperature rises slightly. The reaction solution is stirred for 18 hours at room temperature; it is then filtered, and concentrated by evaporation. The residue is crystallised from ethyl acetate to thus obtain 5.8 g of N-(5-methyl-2-propargyloxyphenylsulfonyl)-N'-(4-chloro-6-methoxy-pyrimidin-2-yl)-urea, m.p. 202°-204° C.

reactant | 5-methyl-2-propargyloxyphenylsulfonylisocyanate | 9.4 g | CC=1C=CC(=C(C1)S(=O)(=O)N=C=O)OCC#C | C11H9NO4S
reactant | 2-amino-4-chloro-6-methoxy-pyrimidine | 3.7 g | NC1=NC(=CC(=N1)Cl)OC | C5H6ClN3O
reactant | octane | CCCCCCCC | C8H18
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-(5-Methyl-2-propargyloxyphenylsulfonyl)-N'-(4-chloro-6-methoxypyrimidin-2-yl)-urea | CC=1C=CC(=C(C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)Cl)OC)OCC#C | C16H15ClN4O5S
